US04035499
A. (4,4'-dimethoxydesyl)isoquinolinium bromide
A solution of α-bromodeoxy-p-anisoin (12 g) in isoquinoline (12 g) was heated in an oil bath at 160°0 for 10 minutes. The cooled reaction mixture was taken up in chloroform (50 ml), and the chloroform solution added dropwise, with stirring, to ether (600 ml). The suspension was stirred for 30 minutes, and the solid filtered off, washed well with ether and dried. Yield 18.0 g.

reactant | α-bromodeoxy-p-anisoin | 12 g | BrC(C(C1=CC=C(OC)C=C1)=O)C1=CC=C(OC)C=C1 | C16H15BrO3
reactant | ether | 600 ml | CCOCC | C4H10O
reactant | isoquinoline | 12 g | C1=NC=CC2=CC=CC=C12 | C9H7N
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | (4,4'-dimethoxydesyl)isoquinolinium bromide | [Br-].COC1=CC=C(C=C1)C(=O)C(C1=CC=C(C=C1)OC)C1=[NH+]C=CC2=CC=CC=C12 | InChI=1S/C25H21NO3.BrH/c1-28-20-11-7-18(8-12-20)23(25(27)19-9-13-21(29-2)14-10-19)24-22-6-4-3-5-17(22)15-16-26-24;/h3-16,23H,1-2H3;1H
